US06498159B1
A mixture of 1.19 g 4-[(3-chloro-4-methoxybenzyl)amino]-1-[4-oxopiperidino]-6-phthalazine carbonitrile, 354 mg methoxyamine hydrochloride, 1.2 g sodium carbonate, and 10 ml ethanol was heated under reflux for 2 hr. After cooling, saline was added to the reaction solution which was then extracted with ethyl acetate. It was dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated, and the resulting residue was purified by silica gel column chromatography to give 620 mg of 4-[(3-chloro-4-methoxybenzyl)amino]-1-[4-(methoxyimino)piperidino]-6-phthalazine carbonitrile. This product was dissolved in a mixed solvent of methanol and ethanol, and recrystallized by adding 0.35 ml of 4 N hydrochloric acid/ethyl acetate to give 388 mg of 4-[(3-chloro-4-methoxybenzyl)amino]-1-[4-(methoxyimino)piperidino]-6-phthalazinecarbonitrile hydrochloride.

reactant | 4-[(3-chloro-4-methoxybenzyl)amino]-1-[4-oxopiperidino]-6-phthalazine carbonitrile | 1.19 g | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)=O)C=CC1OC | C22H20ClN5O2
reactant | methoxyamine hydrochloride | 354 mg | Cl.CON
reactant | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(3-chloro-4-methoxybenzyl)amino]-1-[4-(methoxyimino)piperidino]-6-phthalazine carbonitrile | 620 mg | ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)=NOC)C=CC1OC | C23H23ClN6O2
